US07750002B2
Amine preparation: To a suspension of piperazine-2-carboxylic acid dihydrochloride (10.0 g) in 1,4-dioxane (100 mL) and water (50 mL), cooled down to 0° C., was slowly added 17M sodium hydroxide solution (8.6 mL) followed by di-tert-butyldicarbonate (11.8 g). The reaction mixture was warmed to room temperature and stirred for 5 h. Triethylamine (13.7 mL) followed by methanesulfonyl chloride (3.8 mL) was then added. After stirring for 24 h the reaction mixture was concentrated down, the residue diluted with ethyl acetate, washed with 2M hydrochloric acid, brine, dried (MgSO4) and the solvent removed in vacuo to yield crude 4-methanesulfonyl-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester (8.46 g). This was subsequently dissolved in DMF (50 mL), and was treated with added potassium carbonate (7.5 g) and iodomethane (8.5 mL). After stirring for 24 h the reaction mixture was diluted with ethyl acetate, washed with water, brine, dried (MgSO4) and the solvent removed in vacuo. The residue was purified by flash chromatography to yield 4-methanesulfonyl-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (3.27 g).

reactant | piperazine-2-carboxylic acid dihydrochloride | 10.0 g | Cl.Cl.N1C(CNCC1)C(=O)O
reactant | sodium hydroxide | 17M, 8.6 mL | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 11.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | methanesulfonyl chloride | 3.8 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | Triethylamine | 13.7 mL | C(C)N(CC)CC | C6H15N
product | 4-methanesulfonyl-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester | 8.46 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)S(=O)(=O)C)C(=O)O | C11H20N2O6S
